US07829560B2
4-(2-Chloroethoxy)-naphthalen-1-ylamine hydrochloride salt.
To a stirred solution of [4-(2-chloro-ethoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester (1.387 g, 4.3 mmol) in anhydrous dioxane (10 ml) at room temperature is added a solution of 4M HCl in dioxane (15 ml). After 18 hours diethyl ether (150 ml) is added and 4-(2-chloroethoxy)-naphthalen-1-ylamine hydrochloride salt filtered off as a pink solid (1.081 g).

reactant | [4-(2-chloro-ethoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | 4.3 mmol, 1.387 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OCCCl)=O | C17H20ClNO3
reactant | HCl | 4M | Cl | ClH
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Chloroethoxy)-naphthalen-1-ylamine hydrochloride salt | Cl.ClCCOC1=CC=C(C2=CC=CC=C12)N | InChI=1S/C12H12ClNO.ClH/c13-7-8-15-12-6-5-11(14)9-3-1-2-4-10(9)12;/h1-6H,7-8,14H2;1H
